US08536168B2
2-(4-tert-Butoxycarbonyl-piperazin-1-yl)-pyrimidine-5-carboxylic acid methyl ester (Compound 17)
To 2-(4-tert-Butoxycarbonyl-piperazin-1-yl)-pyrimidine-5-carboxylic acid (150 mg, 0.486 mmol) in an oven dried round-bottom flask is added methanol (1.0 mL) and benzene (3.7 mL) under nitrogen, and the reaction stirred for 10 min. Trimethylsilyldiazomethane (0.34 ml, 0.678 mmol) is added and the reaction stirred for 1 h. Glacial acetic acid (0.05 ml) is then added until the yellow color has disappeared. The reaction mixture is concentrated under reduced pressure and co-evaporated with benzene. It is dried under high vacuum to yield the title compound as a white solid (155 mg, 99% yield).

reactant | 2-(4-tert-Butoxycarbonyl-piperazin-1-yl)-pyrimidine-5-carboxylic acid | 0.486 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C(=O)O | C14H20N4O4
reactant | methanol | 1.0 mL | CO | CH4O
reactant | benzene | 3.7 mL | C1=CC=CC=C1 | C6H6
reactant | Trimethylsilyldiazomethane | 0.678 mmol, 0.34 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
product | 2-(4-tert-Butoxycarbonyl-piperazin-1-yl)-pyrimidine-5-carboxylic acid methyl ester | 155 mg, 99% yield | COC(=O)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N4O4
